Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Incidental PE finding  
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient referred in for incidental finding of left upper lobe PE 
on CT neck. Patient is a ___ year old former ICU physician with 
history of hypertension and C2 fracture 9 weeks ago for which he 
is in SOMI brace with plan for operative repair on ___ with 
Dr. ___. The patient recently underwent CTA neck as part of 
operative workup, and a subsegmental PE was noted in LUL as an 
incidental finding. Patient was then referred to ___ ED.
On arrival to the ED, patient noted to be asymptomatic with no 
chest pain, shortness of breath, or cough. Denies ___ swelling, 
immobilization, recent surgery, history of clots or family 
history of coagulation disorders.
In the ED, initial VS were:
Temp. 98.1 HR 66 BP 137/71 RR 16 SpO2 100% RA
Labs notable for WBC 9.1, Hg 12.8, platelets 257, Na 137, K 6.0, 
Cl 99, Bicarb 26, BUN 19, Cr 0.9. K on repeat 4.1
CT chest showed:
Imaging showed:
1. Pulmonary emboli involving the segmental and subsegmental 
right and leftupper and lower lobe pulmonary arteries. No 
evidence of pulmonary infarction.
2. Dilated right and left pulmonary trunks and right atrial 
enlargement, not significantly changed compared to ___, 
suggestive of pulmonary artery hypertension.
Patient given:
80mg Lovenox X 1
Vitals prior to transfer:
Temp. 98.2 HR 71 BP 141/66 RR 16 SpO2 100% RA
On arrival to the floor, patient reports he does not believe he 
has a PE as he has had no dyspnea, chest pain, coughing, or 
shortness of breath. He notes he has taken care of many 
patient's with pulmonary emboli in his career and does not 
believe his imaging findings are from PE. He notes he fell about 
9 weeks with C2 fracture with plan for operative repair in 
___. He is up to date with colonoscopy and PSA screening. He 
denies any personal or family history of blood clots or 
malignancy.
REVIEW OF SYSTEMS:
Denies fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria.
All other 10-system review negative in detail.
 
Past Medical History:
Hypertension
C2 fracture with upcoming plan for operative repair
 
Social History:
___
Family History:
Father with diabetes and congestive heart failure. Denies family 
history of DVT or PE.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS - Temp. 97.8, BP 139/82, HR 78, RR 18, 100% RA
GENERAL: NAD, resting comfortably in bed
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition
NECK: nontender supple neck, no LAD, no JVD. SOMI brace at edge 
of bed. About to place on neck.
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose
PULSES: 2+ DP pulses bilaterally
NEURO: CN II-XII intact
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes

DISCHARGE PHYSICAL EXAM:
VS - 98.1 133/78 64 18 98%RA 74.6kg
GENERAL: NAD, resting comfortably in bed with brace on
HEENT: MMM
NECK: nontender supple neck, 
LYMPH: no LAD in cervical, supraclavicular, axillary or inguinal 
nodes
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, 
ABDOMEN: nondistended, +BS, nontender  
EXTREMITIES: no cyanosis, clubbing or edema,   
SKIN: warm and well perfused
 
Pertinent Results:
PERTINENT LABS
===============
___ 02:15PM BLOOD WBC-10.6* RBC-4.12* Hgb-13.0* Hct-38.4* 
MCV-93 MCH-31.6 MCHC-33.9 RDW-13.6 RDWSD-46.2 Plt ___
___ 05:44PM BLOOD WBC-9.1 RBC-4.11* Hgb-12.8* Hct-38.1* 
MCV-93 MCH-31.1 MCHC-33.6 RDW-13.7 RDWSD-46.7* Plt ___
___ 06:40AM BLOOD WBC-8.5 RBC-3.96* Hgb-12.6* Hct-36.8* 
MCV-93 MCH-31.8 MCHC-34.2 RDW-13.8 RDWSD-46.7* Plt ___
___ 05:44PM BLOOD Neuts-51.2 ___ Monos-10.2 Eos-1.6 
Baso-0.5 Im ___ AbsNeut-4.67 AbsLymp-3.31 AbsMono-0.93* 
AbsEos-0.15 AbsBaso-0.05
___ 02:15PM BLOOD ___
___ 05:44PM BLOOD ___ PTT-25.9 ___
___ 02:15PM BLOOD UreaN-20 Creat-0.9 Na-140 K-3.9 Cl-101
___ 05:44PM BLOOD Glucose-95 UreaN-19 Creat-0.9 Na-137 
K-6.0* Cl-99 HCO3-26 AnGap-18
___ 06:40AM BLOOD Glucose-94 UreaN-13 Creat-0.9 Na-142 
K-4.3 Cl-103 HCO3-28 AnGap-15
___ 06:40AM BLOOD Calcium-9.8 Phos-3.8 Mg-1.9
___ 08:13PM BLOOD K-4.1

IMAGING
==============

EXAMINATION:  CT ABDOMEN PELVIS WITH CONTRAST.
 
INDICATION:  ___ man with incidental left upper lobe 
subsegmental
pulmonary embolism on CTA neck
 
TECHNIQUE:  Axial multidetector CT images were obtained through 
the thorax
after the uneventful administration of intravenous contrast.
Reformatted coronal, sagittal, thin slice axial images, and 
oblique maximal
intensity projection images were submitted to PACS and reviewed.
 
DOSE:  Total DLP (Body) = 327 mGy-cm.
 
COMPARISON:  CTA neck ___.
 
FINDINGS: 
 
CTA:  There are segmental and subsegmental pulmonary emboli 
involving right
upper, right lower, left upper, and left lower lobe.  The right 
and left main
pulmonary arteries are dilated measuring 25 and 28 mm 
respectively.  There is
no intraventricular septal flattening.  There is mild left 
atrial enlargement.
The thoracic aorta is normal in caliber without aneurysmal 
dilation.
 
CHEST:  There is no axillary, supraclavicular, or mediastinal 
lymphadenopathy.
The thyroid is normal.  Heart size is enlarged.  There is no 
pericardial
effusion.  Coronary artery calcifications are moderate.
 
Airway is are patent to the segmental level bilaterally with 
bronchial wall
thickening at the lung bases likely reflective of chronic 
inflammation.  There
is no focal lung consolidation.  There is no evidence of 
pulmonary infarction.
Scattered calcified granulomas are present.  There is bibasilar 
atelectasis.
 
The thoracic esophagus is unremarkable.  Views of the upper 
abdomen are
normal.  Superficial soft tissues are notable for bilateral 
gynecomastia.
 
OSSEOUS STRUCTURES:  Mild compression of T3 and T7 are unchanged 
from ___.  Compression deformity of T5 has minimally increased from 
___.
 
IMPRESSION:
 
 
1. Pulmonary emboli involving the segmental and subsegmental 
right and left
upper and lower lobe pulmonary arteries.  No evidence of 
pulmonary infarction.
No evidence of acute right heart strain.
2. Lower lobe bronchial wall thickening, likely related to 
chronic
inflammation.
 
 
Brief Hospital Course:
___ intensivist (MD) with hx of htn, recent C2 fracture with 
planned operative repair ___ presenting with incidental, 
asymptomatic PE discovered on CT head/neck for C2 fracture.
 
# Multiple pulmonary emboli: The patient recently underwent CTA 
neck as part of operative workup, and a subsegmental PE was 
noted in LUL as an incidental finding. Patient subsequently had 
CTA to further characterize PE, which revealed multiple 
segmental and subsegmental PEs. Patient does note he has been 
spending more time in bed in setting of C2 fracture. Denies any 
fevers, chills, night sweats or weight loss. Up to date on 
colonoscopy ___ years ago. No lower extremity swelling noted on 
exam. Patient denied chest pain or shortness of breath. No 
respiratory distress on exam. Patient was started on 
weight-based lovenox. He was stable and asymptomatic on 
discharge. Neurosurgeon notified by email regarding initiation 
of anticoagulation and need for perioperative anticoagulation 
planning.

# Hypertension: stable, continued on amlodipine and lisinopril.

# C2 fracture: C2 fracture 9 weeks prior to admission for which 
he is in SOMI brace with plan for operative repair on ___ 
with Dr. ___.  Patient was given tylenol for pain and 
continued use of SOMI brace. 

# Depression: continued sertraline  
# Glaucoma: continued dorzolamide  
# Insomnia: continued Ativan 2 mg QHS  (transitional issue to 
d/c given fall)

TRANSITIONAL ISSUES:
======================
- Lovenox ___ SC daily- duration 3 months given first DVT, can 
discuss other anticoagulation options with patient
- Further work up for PE and presumed DVT, patient with no lower 
extremity edema so lower extremity ultrasound was deferred
- Up to date cancer screening 
- Consider discontinuation of lorazepam QHS given increased risk 
of fall and delirium
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 10 mg PO DAILY 
2. Lisinopril 20 mg PO DAILY 
3. Dorzolamide 2% Ophth. Soln. 1 DROP RIGHT EYE BID 
4. Fluoxetine 20 mg PO DAILY 
5. Lorazepam 2 mg PO QHS 

 
Discharge Medications:
1. Enoxaparin Sodium 120 mg SC DAILY 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 120 mg/0.8 mL 120 mg SC daily Disp #*30 Syringe 
Refills:*0
2. Amlodipine 10 mg PO DAILY 
3. Dorzolamide 2% Ophth. Soln. 1 DROP RIGHT EYE BID 
4. Fluoxetine 20 mg PO DAILY 
5. Lisinopril 20 mg PO DAILY 
6. Lorazepam 2 mg PO QHS 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: Pulmonary Embolism
Secondary Diagnosis: hypertension , C2 Cervical Fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Dr. ___,

___ was a pleasure taking care of you at the ___ 
___. You were hospitalized after a CT scan 
showed pulmonary embolism (blood clots found in your lungs). You 
were started on treatment with Lovenox (blood thinner). You will 
need to continue this medication till you visit with your PCP 
and decide long term treatment for your clot.

Please continue to take your medications as prescribed and 
follow up with your primary care doctor.
 
Followup Instructions:
___